data/specific_train_final.csv
"CC(C)(C(C)(C)O[O:20])O.[N:10]=O>>CC(C)(C(C)(C)O[O:20][N:10]=O)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(CO[O:20])O[N+](=O)[O-].[N:10]=O>>CC(CO[O:20][N:10]=O)O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21]O.CC(=O)OCCO[O:10]>>[H:20][O:10]OCCOC(=O)C.O[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:4][CH:3]([CH2:2][OH:1])[O:5][O:6][O:7][N+:8](=[O:10])[O-:9]>>[CH3:4][CH:3]([CH2:2][OH:1])[O:5][O:6][O:7].[N+:8](=[O:10])[O-:9] 7,8-7; 7,8-8",Room Temperature,Initiation,homolyze
"CC(=CCO[O:20])CO[N+](=O)[O-].[N+](=O)([O-])[O:10]>>CC(=CCO[O:20][O:10][N+](=O)[O-])CO[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)CCC(C)[O:20][O:21]N=O>>CC(C)CCC(C)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCCC(C)(C)[O:20][O:21]N=O>>CCCCC(C)(C)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C1=CC([CH:10]C(=C1)O)O.[O:20][O]>>C1=CC([CH:10](C(=C1)O)[O:20][O])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C=C(C([O:1])CO)C.[O-][N+:2]=O>>C=C(C)C(CO)[O:1][N+:2]([O-])=O 1-1,2;2-2,1",Room Temperature,Termination,recombine
"CC(C(C)(C)O[O:20])O[N+](=O)[O-].[N:10]=O>>CC(C(C)(C)O[O:20][N:10]=O)O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C)CC(C)[O:20][O:21]N=O>>CCC(C)CC(C)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)(C)OCCO[O:20].[N:10]=O>>CC(C)(C)OCCO[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].C(C(O[O:10])(Cl)Cl)(Cl)Cl>>[H:20][O:10]OC(C(Cl)Cl)(Cl)Cl.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)(C)OC[O:20][O:21]N=O>>CC(C)(C)OC[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:10][C:9](=[CH:11][OH:12])[CH:5]([CH2:6][O:7][OH:8])[O:4][O:3][N:2]=[O:1]>>[CH3:10][C:9](=[CH:11][OH:12])[CH:5]([CH2:6][O:7][OH:8])[O:4].[N:2](=[O:1])[O:3] 3,4-4; 3,4-3",Room Temperature,Initiation,homolyze
"CCC(CO[O:20])O[N+](=O)[O-].[N:10]=O>>CCC(CO[O:20][N:10]=O)O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C)(CO[O:20])O.[N:10]=O>>CCC(C)(CO[O:20][N:10]=O)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(C)CO[O:20].[N:10]=O>>CC(C)(C)CO[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C)C(C)O[O:20].[N:10]=O>>CCC(C)C(C)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC[C:21]1=[C:20](C(C(C=C1)O[O:10])O)C>>CC[C:21]1C=CC2C([C:20]1(C)[O:10]O2)O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC1=C[C:10](C2(C(C1OO2)O)C)O.[O:20][O]>>CC1=C[C:10](C2(C(C1OO2)O)C)(O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC[CH:10]CO[N+](=O)[O-].[O:20][O]>>CC[CH:10](CO[N+](=O)[O-])[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC12C=C[CH:20]([CH:21](C1(O2)C)O)[O:10]>>CC1(/C=C\[CH:20]=[O:10])C(O1)([CH:21]O)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"CCCCC(C[O:21][O:20][O])O[N+](=O)[O-].[N+](=O)[O-]>>CCCCC(C[O:21])O[N+](=O)[O-].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C[C:20](=[CH2:21])C.[N+](=O)([O-])[O:10]>>C[C:20](C)([CH2:21])[O:10][N+](=O)[O-] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CCC(C(C)O[O:20])O.[N+](=O)([O-])[O:10]>>CCC(C(C)O[O:20][O:10][N+](=O)[O-])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC(C)O[O:20].[N:10]=O>>CCCC(C)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:7][C:4]([CH2:3][O:2][OH:1])([CH:8]([CH:13]=[O:14])[O:9][O:10][N:11]=[O:12])[O:5][OH:6]>>[CH3:7][C:4]([CH2:3][O:2][OH:1])([CH:8]([CH:13]=[O:14])[O:9])[O:5][OH:6].[N:11](=[O:12])[O:10] 9,10-9; 9,10-10",Room Temperature,Initiation,homolyze
"CC1=CCC(CC1)[C:20](=[CH2:21])C.[OH:10]>>CC1=CCC(CC1)[C:20](C)([CH2:21])[OH:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
[CH3:7][CH2:6][C:3]([CH3:4])([CH2:2][OH:1])[O:5].[N:9](=[O:10])[O:8]>>[CH3:7][CH2:6][C:3]([CH3:4])([CH2:2][OH:1])[O:5].[N+:9](=[O:10])[O-:8] 9-8,Room Temperature,Propagation,ha resonance
"CCCCCC[CH:10]CC.[O:20][O]>>CCCCCC[CH:10](CC)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C(C)[O:20][O:21]N=O)O[N+](=O)[O-]>>CCC(C(C)[O:20])O[N+](=O)[O-].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CC(C)(C(C)(C)O[O:10])O[N+](=O)[O-]>>[H:20][O:10]OC(C)(C)C(C)(C)O[N+](=O)[O-].[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC12CC(C(C=C1)(C)O[O:20])OO2.[N+](=O)([O-])[O:10]>>CCC12CC(C(C=C1)(C)O[O:20][O:10][N+](=O)[O-])OO2 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(COC(=O)C)[O:20].[N+:10](=O)[O-]>>CCC(COC(=O)C)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
